US06353018B1
Ethyl 2-ethoxy-3-{4-[2-(9H-xanthen-9-yl)ethoxy]phenyl}propionate
Diethyl azodicarboxylate (40% solution in toluene, 1.61 g, 9.3 mmol) was added dropwise, under argon, over 10 min to a solution of ethyl 3-(4-hydroxyphenyl)-2-ethoxypropionate (2.23 g, 9.3 mmol) and triphenylphosphine (2.43 g, 9.3 mmol) in THF (45 ml). The mixture was stirred for 15 min, then a solution of 2-(9H-xanthen-9-yl)ethanol (2.0 g, 9.3 mmol) in THF (10 ml) was added dropwise over 10 min. The resulting mixture was stirred at room temperature for 60 h. The solvent was evaporated, the residue stirred with benzene (20 ml) and the resulting crystalline solid filtered off. The filtrate was evaporated and the residue purified by column chromatography on silica gel (benzene eluent) to give the title compound as an oil: (1.9 g, 45.8%).

reactant | Diethyl azodicarboxylate | 9.3 mmol, 1.61 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 3-(4-hydroxyphenyl)-2-ethoxypropionate | 9.3 mmol, 2.23 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C13H18O4
reactant | triphenylphosphine | 9.3 mmol, 2.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(9H-xanthen-9-yl)ethanol | 9.3 mmol, 2.0 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)CCO | C15H14O2
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl 2-ethoxy-3-{4-[2-(9H-xanthen-9-yl)ethoxy]phenyl}propionate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCC1C2=CC=CC=C2OC=2C=CC=CC12 | C28H30O5
